US04595768
Following the procedure described in Example 26, part A, 9.9 g of 3-(4-methoxyphenyl)-6-dimethylaminophthalide, prepared as described in Example 12, part A above, and 89.0 ml of N,N-dimethylaniline were interacted in the presence of 9.5 g of anhydrous zinc chloride at room temperature to obtain 13.7 g of 2-(4-dimethylamino-4'-methoxybenzhydryl)-5-dimethylaminobenzoic acid as an off-white colored solid melting at 185°-190° C.

reactant | 3-(4-methoxyphenyl)-6-dimethylaminophthalide | 9.9 g | COC1=CC=C(C=C1)C1OC(=O)C2=CC(=CC=C12)N(C)C | C17H17NO3
reactant | N,N-dimethylaniline | 89.0 ml | CN(C1=CC=CC=C1)C | C8H11N
catalyst | zinc chloride | 9.5 g | [Cl-].[Zn+2].[Cl-]
product | 2-(4-dimethylamino-4'-methoxybenzhydryl)-5-dimethylaminobenzoic acid | 13.7 g | CN(C1=CC=C(C(C2=CC=C(C=C2)OC)C2=C(C(=O)O)C=C(C=C2)N(C)C)C=C1)C | C25H28N2O3
